US04952593
2,4-Dimethyl-5-(2-thienyl)-3H-1,2,4-triazole-3-thione
A stirred mixture of 2,4-dimethyl-1-(2-thienoyl)thiosemicarbazide (4.7g, 2.0×10-2 mole) and 1 molar aqueous NaHCO3 (200 ml, 2.00×10-2 mole) was heated to reflux for 6 hours. The reaction mixture was then placed in the refrigerator for several hours before the precipitate was collected by filtration. Crystallization from isopropanol afforded long colorless needles: 3.6 g (83%), mp 128°-129° C.

reactant | 2,4-dimethyl-1-(2-thienoyl)thiosemicarbazide | 2.0×10-2 mole, 4.7g | CN(NC(=O)C=1SC=CC1)C(=S)NC | C8H11N3OS2
reactant | NaHCO3 | 2.00×10-2 mole, 1 molar, 200 ml | C(=O)(O)[O-].[Na+]
product | 2,4-Dimethyl-5-(2-thienyl)-3H-1,2,4-triazole-3-thione | CN1N=C(N(C1=S)C)C=1SC=CC1 | C8H9N3S2
